Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1]#[C:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1][C:2]#[C:4][C:5]([H:6])([H:7])[H:11].[C:3]=[C:8]([H:9])[H:10],4.09918451762
[C:5]([H:6])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2]=[C:3]([H:4])[H:7]>>[H:1][C:2]([C:3]([H:4])=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-5.9288831687800005
[C:8]([H:9])([H:10])[H:11].[O:1][O:2][C:3]#[C:4][C:5]([H:6])[H:7]>>[O:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],-3.10116389059
[H:1][C:2](=[C:3]([H:4])[H:5])[C:7]([H:8])([H:9])/[C:10]([H:11])=[C:12](\[H:13])[C:14]([H:15])([H:16])[H:17].[H:6]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])/[C:10]([H:11])=[C:12](\[H:13])[C:14]([H:15])([H:16])[H:17],-1.90359638549
[H:1][C:2]([H:3])([H:4])[C:5](=[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])([H:4])[C:5](=[C:6])[C:14]([H:15])([H:16])[H:17],3.56825587435
[H:1][C:2]([O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])[H:10])=[C:11]([H:12])[H:13]>>[H:1][C:2]1[O:3][C:4]([H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]1([H:12])[H:13],-0.54592402554
[O:1][C:2]#[C:3][O:4]>>[C:3]=[O:4].[O:1]=[C:2],-3.2490498368000003
[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8][C:9]([H:10])([H:11])[H:12]>>[C:3]([H:4])([H:5])=[C:6][O:7][C:8][C:9]([H:10])([H:11])[H:12].[H:1][O:2],3.19764112158
[O:1]=[C:2]([H:3])[C:4][O:5][C:6]([H:7])([H:8])[H:9]>>[C:2]([H:3])#[C:4][O:5][C:6]([H:7])([H:8])[H:9].[O:1],3.5272260828199995
[O:1]=[C:2]([H:3])[C:4](=[C:5][H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[C:4](#[C:5][H:6])[O:7][C:8]([H:9])([H:10])[H:11].[O:1]=[C:2][H:3],1.54176138317
[C:9]([H:10])=[C:11]([H:12])[H:13].[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])[H:8]>>[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-4.50248491175
[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[H:8].[O:1]=[C:2]([C:3]([H:4])=[C:5]([H:6])[H:7])[C:9]([H:10])([H:11])[O:12][H:13],2.34555426989
[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([C:8]([H:9])=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([C:8]=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:9],4.79587898732
[H:1][C:2][O:3][C@:4]([H:5])([C:6]#[C:8][H:9])[C:10]([H:11])([H:12])[H:13].[H:7]>>[H:1][C:2][O:3][C@:4]([H:5])([C:6]([H:7])=[C:8][H:9])[C:10]([H:11])([H:12])[H:13],-1.92881807175
[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14]>>[H:14].[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]#[C:12][H:13],2.00263919257
[H:1][C:2]=[C:3]([C:4](=[O:5])[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:6]>>[H:1][C:2]=[C:3]([C:4]([O:5][H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-3.91726113427
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2][C@:3]1([H:4])[C:5]([H:6])([H:7])[C@@:8]1([H:9])[C:10]([H:11])([H:12])[H:13],-0.34481548188
[O:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11]>>[H:4].[O:1][O:2][C:3][C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11],5.03972766932
[H:14].[H:1][C:2]#[C:3][C:4]([C:5]([H:6])[C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13]>>[H:1][C:2]#[C:3]/[C:4](=[C:5](/[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-3.87090317935
[O:1]=[C:2][H:3].[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.46257778496
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7][C:8]([H:9])([H:10])[H:11],3.2759023775700005
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[O:9][H:10]>>[H:3].[O:1]=[C:2][C:4]([H:5])([H:6])[C:7]([H:8])[O:9][H:10],4.03395707751
[H:1][O:2][C:3]([H:4])(/[C:5]=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11])[O:12][H:13]>>[C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3]([H:4])([C:5]#[C:6][H:7])[O:12][H:13],1.7322883022799995
[C:1]#[C:2][C:5]([H:6])[C:7]#[C:8][H:9].[O:3][H:4]>>[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])[C:7]#[C:8][H:9],-3.68486353062
[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[O:15][H:16]>>[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[O:15][H:16].[H:1][C:2],4.95570292877
[H:6].[O:1]=[C:2]=[C:3]([H:4])[C:5][O:7][C:8]([H:9])[H:10]>>[O:1]=[C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])[H:10],-3.40961630203
[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[O:8][C:9]([H:10])[H:11]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])[H:7].[O:8]=[C:9]([H:10])[H:11],0.552441971141
[C:1][O:2][C:3]([H:4])[C:5]([H:6])=[C:7].[C:8]>>[C:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]#[C:8],-7.5089032050199975
